US07544812B2
3-{4-[2-(1-Benzyl-3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-(2-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester:
Benzyl bromide (0.02 mL, 0.172 mmol, d=1.438) and tetrabutyl ammonium iodide (catalytic amount) are added to a 0° C. suspension of 2-(2-Fluoro-phenoxy)-2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester (0.051 g, 0.115 mmol) and sodium hydride (0.011 g, 0.287 mmol, 60% suspension on mineral oil), pre-stirred for 1 h at ambient temperature. The reaction mixture is stirred at ambient temperature for 18 h, diluted with ethyl acetate, and washed with 1N HCl, water, and brine. The organic layer is dried and concentrated in vacuo to provide the title compound, which is used in the next step. MS [EI+] 535 (M+H)+.

reactant | Benzyl bromide | 0.172 mmol, 0.02 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-(2-Fluoro-phenoxy)-2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester | 0.115 mmol, 0.051 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(NC1)=O)C)(C)OC1=C(C=CC=C1)F)=O | C24H29FN2O5
reactant | sodium hydride | 0.287 mmol, 0.011 g | [H-].[Na+]
catalyst | tetrabutyl ammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{4-[2-(1-Benzyl-3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-(2-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=CC=C1)=O)C)(C)OC1=C(C=CC=C1)F)=O | C31H35FN2O5
